US03978130
1-Cyclopropyl-3-(N-methylacetamido)-1-propanone.
A crude solution of 1-cyclopropyl-3-methylamino-1-propanone was cooled to 8°-10°C. and 8.2 g. (0.06 mole) of potassium carbonate was added, followed by 50 g. (0.5 mole) of acetic anhydride. The mixture was stirred until it warmed to room temperature. The benzne layer was separated, dried over magnesium sulfate, concentrated, and the residual oil distilled at 99°-150°C./0.1 mm. The distillate weighed 65 g. It was calculated to contain 80% of 1-cyclopropyl-3-(N-methylacetamido)-1-propanone by the nuclear magnetic resonance spectrum.

reactant | 1-cyclopropyl-3-methylamino-1-propanone | C1(CC1)C(CCNC)=O | C7H13NO
reactant | potassium carbonate | 0.06 mole | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 0.5 mole | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Cyclopropyl-3-(N-methylacetamido)-1-propanone | C1(CC1)C(CCN(C(C)=O)C)=O | C9H15NO2
